US06544985B2
(5-Dimethylamino-2-{3-[3-(2-methyl-2H-pyrazol-3-yl)-phenyl]-3-oxo-propionylamino}-4-trifluoromethyl-phenyl)-carbamic acid tert.-butyl ester
The title compound was prepared from (2-amino-5-dimethylamino-4-trifluoromethyl-phenyl)-carbamic acid tert.-butyl ester (Example J6) (160 mg, 0.5 mmol) and 3-[3-(2-methyl-2H-pyrazol-3-yl)-phenyl]-3-oxo-propionic acid tert.-butyl ester (Example K7) (150 mg, 0.5 mmol) according to the general procedure M. Obtained as a yellow foam (90 mg).

reactant | (2-amino-5-dimethylamino-4-trifluoromethyl-phenyl)-carbamic acid tert.-butyl ester | 0.5 mmol, 160 mg | C(C)(C)(C)OC(NC1=C(C=C(C(=C1)N(C)C)C(F)(F)F)N)=O | C14H20F3N3O2
reactant | 3-[3-(2-methyl-2H-pyrazol-3-yl)-phenyl]-3-oxo-propionic acid tert.-butyl ester | 0.5 mmol, 150 mg | C(C)(C)(C)OC(CC(=O)C1=CC(=CC=C1)C=1N(N=CC1)C)=O | C17H20N2O3
product | (5-Dimethylamino-2-{3-[3-(2-methyl-2H-pyrazol-3-yl)-phenyl]-3-oxo-propionylamino}-4-trifluoromethyl-phenyl)-carbamic acid tert.-butyl ester | C(C)(C)(C)OC(NC1=C(C=C(C(=C1)N(C)C)C(F)(F)F)NC(CC(=O)C1=CC(=CC=C1)C=1N(N=CC1)C)=O)=O | C27H30F3N5O4
